US04755517
The 1,3-dipropyl-8-(3-tetrahydrothienyl)xanthine is prepared as follows: To 1.1 g 1,3-dipropyl-8-(3-thienyl)xanthine in 50 ml THF is added 0.2 g 10% Pd/Al2O3, and the mixture reduced under a hydrogen atmosphere of 1000 lbs at 200° C. overnight. The reaction mixture is filtered, and the filtrate concentrated to give 0.55 g tan powder. Recrystallization from MeOH/CH2Cl2 gives 0.12 g crystals which are identical to starting material. The filtrate is concentrated and chromatographed (20% EtOAc 80% CH2Cl2 on SiO2), to give 0.14 g product. This is determined to be a 1:2 mixture of the 1,3-dipropyl-8-(3-tetrahydrothienyl)xanthine and 1,3-dipropyl-8-(2-butyl)xanthine, mp 139°-145° C.

reactant | 1,3-dipropyl-8-(3-thienyl)xanthine | 1.1 g | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C1=CSC=C1)CCC | C15H18N4O2S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1,3-dipropyl-8-(3-tetrahydrothienyl)xanthine | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C1CSCC1)CCC | C15H22N4O2S
